US07977477B2
A mixture of p-toluic acid (272 mg), 4-amino-1H-pyrazole-3-carboxylic acid methyl ester (310 mg), EDC (460 mg) and HOBt (324 mg) in DMF (8 ml) was stirred at ambient temperature for 48 h. The mixture was reduced in vacuo, partitioned between EtOAc and saturated aqueous NaHCO3 and then the organic portion washed with brine, dried (MgSO4) and reduced in vacuo to give 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester (486 mg).

reactant | p-toluic acid | 272 mg | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | 4-amino-1H-pyrazole-3-carboxylic acid methyl ester | 310 mg | COC(=O)C1=NNC=C1N | C5H7N3O2
reactant | EDC | 460 mg
reactant | HOBt | 324 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester | 486 mg | COC(=O)C1=NNC=C1NC(C1=CC=C(C=C1)C)=O | C13H13N3O3
